US04220767
3-[2-(2-Thiazolylmethylthio)ethylamino]-6-(3-pyridylmethyl)-1,2,4-triazin-5-one
3-Methylthio-6-(3-pyridylmethyl)-1,2,4-triazin-5-one (3.28 g) and 2-(2-thiazolylmethylthio)ethylamine (2.7 g) were heated together on an oil bath (160°-170°) for 1 hour. The cooled mixture was triturated with isopropanol and the solid was twice recrystallised from ethanol to give the title compound as pale yellow plates (3.1 g) m.p. 158°-59°.

reactant | 3-Methylthio-6-(3-pyridylmethyl)-1,2,4-triazin-5-one | 3.28 g | CSC1=NN=C(C(N1)=O)CC=1C=NC=CC1 | C10H10N4OS
reactant | 2-(2-thiazolylmethylthio)ethylamine | 2.7 g | S1C(=NC=C1)CSCCN | C6H10N2S2
product | 3-[2-(2-Thiazolylmethylthio)ethylamino]-6-(3-pyridylmethyl)-1,2,4-triazin-5-one | S1C(=NC=C1)CSCCNC1=NN=C(C(N1)=O)CC=1C=NC=CC1 | C15H16N6OS2
